US07528163B2
2-[3-(2,2-Dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]-N-ethyl-N-(3-methylbutyl)acetamide
To a solution of 29.0 mg [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid in 1 mL DMF was added 23.0 mg HOBt, 17.3 mg N-ethyl-iso-amylamine, 38.3 mg EDC, and 45.2 mg DIEA in that order. The mixture was stirred at room temperature over night and purified by RP-HPLC using 60-100% MeCN gradient. The pure product fractions were pooled and lyophilized to give the title compound. LC-MS: 4.16 min. (m/Z=388.3, 4.10.2).

reactant | [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid | 29.0 mg | CC(C(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)O)(C)C | C15H18N2O4
reactant | HOBt | 23.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethyl-iso-amylamine | 17.3 mg | C(C)NCCC(C)C | C7H17N
reactant | DIEA | 45.2 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EDC | 38.3 mg
product | 2-[3-(2,2-Dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]-N-ethyl-N-(3-methylbutyl)acetamide | CC(C(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)N(CCC(C)C)CC)(C)C | C22H33N3O3
